US06790860B2
A solution of 10 g (21.96 mmol) (2S,4R)-4-Mercapto-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid 2,3-dihydro-benzo [1,4]dioxin-5-yl ester in 130 ml pyridine were treated at 0° C. with 3.12 ml (43.92 mmol) acetyl chloride and stirred for 6 h at RT. The reaction was poured on ice water and extracted wit Et2O (3×). The organic phases were washed with aqueous 1 N HCl and 10% NaCl, dried (Na2SO4) and evaporated. Flash chromatography on silica gel (CH2Cl2/Et2O 99.5:0.5 to 98:2) gave 9.94 g (91%) (2S,4R)-4-Acetylsulfanyl-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidin-1-carboxylic acid 2,3-dihydro-benzo[1,4]dioxin-5-yl ester, MS: 498 (MH+).

reactant | (2S,4R)-4-Mercapto-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidine-1-carboxylic acid 2,3-dihydro-benzo [1,4]dioxin-5-yl ester | 21.96 mmol, 10 g | O1CCOC2=C1C=CC=C2OC(=O)N2[C@@H](C[C@H](C2)S)COCC2=C(C=C(C(=C2)F)F)F | C21H20F3NO5S
reactant | acetyl chloride | 43.92 mmol, 3.12 ml | C(C)(=O)Cl | C2H3ClO
solvent | pyridine | 130 ml | N1=CC=CC=C1 | C5H5N
product | (2S,4R)-4-Acetylsulfanyl-2-(2,4,5-trifluoro-benzyloxymethyl)-pyrrolidin-1-carboxylic acid 2,3-dihydro-benzo[1,4]dioxin-5-yl ester | 9.94 g, 91% | O1CCOC2=C1C=CC=C2OC(=O)N2[C@@H](C[C@H](C2)SC(C)=O)COCC2=C(C=C(C(=C2)F)F)F | C23H22F3NO6S
